US09126998B2
rac-N-(2-Amino-3-isopropoxypropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide
125 mg (0.33 mmol) of HATU and 0.16 ml (0.90 mmol) of N,N-diisopropylethylamine were added to 95 mg (0.30 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid Example 3A in DMF (1.9 ml), and the mixture was stirred at RT for 20 min. At −20° C., 145 mg (0.54 mmol, 76% pure) of rac-3-isopropoxypropane-1,2-diamine dihydrochloride Example 224A in DMF (0.5 ml), to which 0.31 ml (1.8 mmol) of N,N-diisopropylethylamine had been added beforehand and which had been stirred at RT for 10 min, were then slowly added dropwise to the reaction mixture. The mixture was stirred at RT overnight. The mixture was then diluted with water/TFA and purified by prep. RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fraction was concentrated and then re-purified by thick-layer chromatography (dichloromethane/methanol: 10:1). This gave 15 mg (12% of theory) of the target compound.

reactant | HATU | 0.33 mmol, 125 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.90 mmol, 0.16 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.30 mmol, 95 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | rac-3-isopropoxypropane-1,2-diamine dihydrochloride | 0.54 mmol, 145 mg | Cl.Cl.C(C)(C)OCC(CN)N
reactant | N,N-diisopropylethylamine | 1.8 mmol, 0.31 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.9 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | water TFA | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-3-isopropoxypropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)COC(C)C | C22H26F2N4O3
